US04065477
The product obtained by the nitration process is accompanied by 2-nitroanthraquinone and 1,5-, 1,8-, 1,6-, and 1,7-dinitroanthraquinone, undesirable contaminants. In order to obtain high quality 1-aminoanthraquinone from this product, multiple purification steps are required after the nitration and reduction reactions.

reactant | 2-nitroanthraquinone | [N+](=O)([O-])C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7NO4
reactant | 1,7-dinitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=C(C=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
product | 1-aminoanthraquinone | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
